US05179120
68 g (0.8 mol) of 3-methoxypropionitrile were dissolved in 1000 mL THF freshly distilled over LiAlH4 and treated with 150.3 g (2.2 mol) Zn/Cu pair under inert gas. With moderate reflux 267.2 g (1.6 mol) of 2-bromoacetic acid ethyl ester were added drop-by-drop to the vigorously stirred suspension within 75 minutes. After the reaction had started, the heat was turned off and the slight reflux adjusted via the drop velocity. To complete the reaction, the solution was stirred for 30 minutes at the boiling temperature of THF. Then, 420 mL of 10% HCl were added drop-by-drop within 30 minutes at 5° C. and stirred for another 30 minutes. The solution was filtered from the non-converted zinc and the filtrate was extracted three times with 300 mL of CHCl3 each. The organic phases were washed four times with water and once with 5% NaHCO3 solution and the solvent was removed following drying over MgSO4 under vacuum. The obtained reddish liquid was distilled under oil pump vacuum. The fraction at 85° C./0.5 torr yielded 106.8 g (0.62 mol) of 5-methoxy-3-oxopentanic acid ethyl ester as a colorless, fruity smelling oil with a refractive index nD22 =1.434. The yield was to 77.5% based on 3-methoxypropionitrile.

reactant | 3-methoxypropionitrile | 0.8 mol, 68 g | COCCC#N | C4H7NO
reactant | 2-bromoacetic acid ethyl ester | 1.6 mol, 267.2 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | HCl | 420 mL | Cl | ClH
reactant | THF | 1000 mL | C1CCOC1 | C4H8O
product | 5-methoxy-3-oxopentanic acid ethyl ester | 0.62 mol, 106.8 g, yield of 76% | C(C)OC(CC(CCOC)=O)=O | C8H14O4
